US08871766B2
B) 2,4′-bipyridine-3-carboxylic acid dihydrochloride
A solution of ethyl 2,4′-bipyridine-3-carboxylate (14.1 g) in 6 N hydrochloric acid (200 mL) was heated under reflux overnight. The solvent was evaporated under reduced pressure, to the obtained residue was added toluene, and the solvent was again evaporated under reduced pressure to give the title compound (16.4 g).

reactant | ethyl 2,4′-bipyridine-3-carboxylate | 14.1 g | N1=C(C(=CC=C1)C(=O)OCC)C1=CC=NC=C1 | C13H12N2O2
reactant | hydrochloric acid | 6 N, 200 mL | Cl | ClH
product | 2,4′-bipyridine-3-carboxylic acid dihydrochloride | 16.4 g | Cl.Cl.N1=C(C(=CC=C1)C(=O)O)C1=CC=NC=C1 | InChI=1S/C11H8N2O2.2ClH/c14-11(15)9-2-1-5-13-10(9)8-3-6-12-7-4-8;;/h1-7H,(H,14,15);2*1H
